US08017602B2
Step v) 5-(Benzyloxy)-8-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Benzyltrimethylammonium dichloroiodate (14.17 g) was added to a stirred solution of 8-acetyl-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one (5.5 g) in a mixture of dichloromethane (100 mL), acetic acid (33 mL) and water (5.5 mL) and the reaction mixture stirred at 65° C. for 20 h. The reaction was cooled to ambient temperature, treated with aqueous sodium bisulphite (5.78 g in 100 mL) and stirred for a further 30 min. The mixture was diluted with diethyl ether (200 mL) and the resulting solid filtered off, washed with water and further diethyl ether, and dried under vacuum at 40° C. to afford the subtitled compound as a light brown solid (5.6 g). 1H NMR (300 MHz, DMSO-d6) δ 10.41 (s, 1H), 7.55 (m, 2H), 7.44 (d, J=9.4 Hz, 1H), 7.39 (m, 2H), 7.32 (m, 1H), 6.95 (d, J=9.4 Hz, 1H), 5.30 (s, 2H), 4.96 (s, 2H), 4.69 (s, 2H).

reactant | Benzyltrimethylammonium dichloroiodate | 14.17 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 8-acetyl-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one | 5.5 g | C(C)(=O)C1=CC=C(C2=C1OCC(N2)=O)OCC2=CC=CC=C2 | C17H15NO4
reactant | acetic acid | 33 mL | C(C)(=O)O | C2H4O2
reactant | sodium bisulphite | 100 mL, 5.78 g | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | water | 5.5 mL | O | H2O
product | 5-(Benzyloxy)-8-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 5.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=2OCC(NC21)=O)C(CCl)=O | C17H14ClNO4
